US04657913
7-[3-(Aminomethyl)-1-pyrrolidinyl]-1-ethyl-5,6,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (A)
To 1.0 g (3.5 mmol) of 1-ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 20 ml of acetonitrile was added 1.05 g (6.9 mmol) of 1,8-diazobicyclo[5.4.0]undec-7-ene and 0.35 g (3.5 mmol) of 3-pyrrolidinemethanamine and the mixture was stirred at 45° C. for 18 hours, then refluxed one hour. The mixture was cooled, diluted with 50 ml of diethyl ether, and filtered. The solids were washed with ethanol and then diethyl ether to give 1.04 g (82%) of the title compound, mp>170° C. (decomposition).

reactant | 1-ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.5 mmol, 1.0 g | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C12H7F4NO3
reactant | 3-pyrrolidinemethanamine | 3.5 mmol, 0.35 g | N1CC(CC1)CN | C5H12N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 7-[3-(Aminomethyl)-1-pyrrolidinyl]-1-ethyl-5,6,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.04 g, 82% | NCC1CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F)F | C17H18F3N3O3
